US07247752B2
Preparation of 2,6,11,15-Tetramethyl-hexadeca-2,4,6,8,10,12,14-heptaenedial
To a suspension of 2,6,11,15-tetramethyl-hexadeca-2,4,6,8,10,12,14-heptaene-1,16-diol (50 g, 0.166 mol) in 3000 mL of DCM was added portionwise manganese dioxide (500 g, 5.75 mol) at room temperature. The mixture 15 was After heated to reflux for 2 h, the solid was filtered via celite and washed with CH2Cl2. The solvent was removed under reduced pressure to give 36 g of pure product (73%). 1H-NMR (300 Hz DMSO-d6) δ 9.42 (s, 2H, CHO), 7.18 (s, 1H, CH), 7.16 (s, 1H, CH), 6.93 (m, 6H, CH), 2.01 (s, 6H, CH3), 1.82 (s, 6H, CH3).

reactant | 2,6,11,15-tetramethyl-hexadeca-2,4,6,8,10,12,14-heptaene-1,16-diol | 0.166 mol, 50 g | CC(CO)=CC=CC(=CC=CC=C(C=CC=C(CO)C)C)C | C20H28O2
solvent | DCM | 3000 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 5.75 mol, 500 g | [O-2].[O-2].[Mn+4]
product | 2,6,11,15-Tetramethyl-hexadeca-2,4,6,8,10,12,14-heptaenedial | 36 g, 73% | CC(C=O)=CC=CC(=CC=CC=C(C=CC=C(C=O)C)C)C | C20H24O2
